US07902219B2
120 mg of (6-methylimidazo[1,2-a]pyridin-2-yl)phenylmethanone are taken up in 2 mL of ethanol and the solution is treated with 1.5 mL of a 4N solution of hydrogen chloride in dioxane and then with 2 mL of diethyl ether. The crystals obtained are filtered off and washed with diethyl ether, and then dried. 77 mg of (6-methylimidazo[1,2-a]pyridin-2-yl)phenylmethanone hydrochloride (1:1) are obtained in the form of a beige-colored solid.

reactant | (6-methylimidazo[1,2-a]pyridin-2-yl)phenylmethanone | 120 mg | CC=1C=CC=2N(C1)C=C(N2)C(=O)C2=CC=CC=C2 | C15H12N2O
reactant | hydrogen chloride | Cl | ClH
reactant | diethyl ether | 2 mL | C(C)OCC | C4H10O
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (6-methylimidazo[1,2-a]pyridin-2-yl)phenylmethanone hydrochloride | 77 mg | Cl.CC=1C=CC=2N(C1)C=C(N2)C(=O)C2=CC=CC=C2 | InChI=1S/C15H12N2O.ClH/c1-11-7-8-14-16-13(10-17(14)9-11)15(18)12-5-3-2-4-6-12;/h2-10H,1H3;1H
